US08048887B2
2-(4-Fluorophenyl)-N-methyl-5-(3-(2-(pyridin-4-yl)propan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide
2-(Pyridin-4-yl)propan-2-amine dihydrochloride (26 mg, 0.123 mmol) was added to a stirring solution of HATU (59 mg, 0.154 mmol), DIEA (54 μL, 0.308 mmol), and 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (40 mg, 0.103 mmol) in DMF (1 mL) at rt. It was allowed to stir for 1 hour. The reaction was purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (15 mg, 27%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.73 (1H, s), 8.50-8.55 (1H, m), 8.48 (2H, dd, J=4.58, 1.53 Hz), 8.16 (1H, s), 7.97-8.04 (2H, m), 7.91-7.94 (1H, m), 7.88 (1H, d, J=7.63 Hz), 7.85 (1H, d, J=7.93 Hz), 7.75-7.82 (2H, m), 7.58 (1H, t, J=7.63 Hz), 7.36-7.43 (4H, m), 2.86 (3H, d, J=4.58 Hz), 1.68 (6H, s). LC-MS retention time: 1.59 min; m/z (MH+): 508. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=8.60 min, purity=95%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=9.26 min, purity=96%.

reactant | 2-(Pyridin-4-yl)propan-2-amine dihydrochloride | 0.123 mmol, 26 mg | Cl.Cl.N1=CC=C(C=C1)C(C)(C)N
reactant | HATU | 0.154 mmol, 59 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.308 mmol, 54 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.103 mmol, 40 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-Fluorophenyl)-N-methyl-5-(3-(2-(pyridin-4-yl)propan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 15 mg, 27% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=NC=C2)=O | C31H26FN3O3
